* C:\Users\Andy\Documents\git\workshoptex\spice\NTC.asc
R1 N001 Ue {R}
R2 Ue 0 600
Q1 N002 P001 0 0 NPN
V1 N001 0 10
RV1 P002 N002 330
D§LED1 N001 P002 D
Q2 N003 N004 P003 0 NPN
RV2 P004 N003 330
D§LED2 N001 P004 D
D2 P003 0 D
R5 N004 Ue 1k
R6 P001 Ue 1k
.model D D
.lib E:\Program Files (x86)\LTC\LTspiceIV\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib E:\Program Files (x86)\LTC\LTspiceIV\lib\cmp\standard.bjt
.step param R 10k 1k 200
.op
.backanno
.end
